US06133303
6-(2-Imidazol-1-yl-ethoxy)-2-(2-methoxy-benzylidene)-3,4-dihydro-2H-naphthalen-1-one
6-(2-Imidazole-1-yl-ethoxy)-3,4-dihydro-2H-naphthalen-1-one (0.200 g, 0.78 mmol) was reacted with o-anisaldehyde (0.117 g, 0.87 mmol) in 2 mL of 4% KOH in EtOH at room temperature overnight. The reaction was diluted with water to induce the precipitation of a red gum. The aqueous layer was decanted, and the remaining residue was concentrated several times from EtOH and then chromatographed (SiO2, 30 g, 8% MeOH in DCM) to afford 0.249 g (84%) of the title compound as a yellow foam: APCI-MS m/e 375.3 (M+ +1).

reactant | 6-(2-Imidazole-1-yl-ethoxy)-3,4-dihydro-2H-naphthalen-1-one | 0.78 mmol, 0.200 g | N1(C=NC=C1)CCOC=1C=C2CCCC(C2=CC1)=O | C15H16N2O2
reactant | o-anisaldehyde | 0.87 mmol, 0.117 g | C(C=1C(=CC=CC1)OC)=O | C8H8O2
solvent | KOH | 2 mL | [OH-].[K+]
solvent | EtOH | CCO | C2H6O
solvent | water | O | H2O
product | 6-(2-Imidazol-1-yl-ethoxy)-2-(2-methoxy-benzylidene)-3,4-dihydro-2H-naphthalen-1-one | 0.249 g, 84% | N1(C=NC=C1)CCOC=1C=C2CCC(C(C2=CC1)=O)=CC1=C(C=CC=C1)OC | C23H22N2O3
